US04276305
20.2 g of 3-hydroxy-2-naphthoic acid methyl ester are dissolved in 200 ml of methyl ethyl ketone and 27.6 g of potassium carbonate and 23.6 g of propargyl bromide are added thereto with stirring and under a nitrogen atmosphere. The heterogeneous mixture is refluxed overnight and then filtered. The filtrate is concentrate in vacuo and the residue is poured into 250 ml of ice-water and extracted three times with hexane/ethyl acetate (1:1). The extracts are washed with 2 N hydrochloric acid solution, 10% potassium bicarbonate solution, semi-saturated and saturated sodium chloride solution, dried and evaporated on a rotary evaporator. The product 3-(2-propynyloxy)-2-naphthoic acid methyl ester is reduced, without further purification, with lithium aluminum hydride by the process described in Example 7. The resulting [3-(2-propynyloxy)-2-naphthyl]methanol is reacted directly with cyclopropane carboxylic acid chloride by the process described in Example 2 to yield cyclopropane carboxylic acid [3-(2-propynyloxy)-2-naphthyl]methyl ester of melting point 58°-60° C.

reactant | 3-hydroxy-2-naphthoic acid methyl ester | 20.2 g | COC(=O)C1=CC2=CC=CC=C2C=C1O | C12H10O3
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 23.6 g | C(C#C)Br | C3H3Br
reactant | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | cyclopropane carboxylic acid [3-(2-propynyloxy)-2-naphthyl]methyl ester | C(C#C)OC=1C(=CC2=CC=CC=C2C1)COC(=O)C1CC1 | C18H16O3
